US05017576
4-(2-Bromoacetyl)morpholine (7.3 g) in 2 butanone (50 cc) is added to a stirred suspension of a mixture (11.2 g of 5-fluoro-2-(4-methylphenyl)-4-quinolone and 7-fluoro-2-(4-methylphenyl)-4-quinolone and anhydrous potassium carbonate (11.3 g) in 2-butanone (250 cc). The mixture is heated to reflux for 15 hours and cooled to room temperature (approximately 20° C.), the insoluble matter is removed by filtration and the 2-butanone is evaporated off under reduced pressure. The residue is taken up with water (200 cc) and the aqueous phase is extracted with methylene chloride (3×100 cc). The organic phase is separated after settling has taken place, dried and evaporated under reduced pressure. After chromatography of the residue on silica gel by means of cyclohexane/ethyl acetate mixture (70:30 by volume) as eluant, the solid obtained is ground in 40°-60° C. petroleum ether (100 cc). 4-≡[5-fluoro-2-(4-methylphenyl-4-quinolyl]oxyacetyl}morpholine (2.4 g), m.p. 142°-4° C., is thereby obtained.

reactant | 4-(2-Bromoacetyl)morpholine | 7.3 g | BrCC(=O)N1CCOCC1 | C6H10BrNO2
reactant | 5-fluoro-2-(4-methylphenyl)-4-quinolone | 11.2 g | FC1=C2C(CC(=NC2=CC=C1)C1=CC=C(C=C1)C)=O | C16H12FNO
reactant | 7-fluoro-2-(4-methylphenyl)-4-quinolone | FC1=CC=C2C(CC(=NC2=C1)C1=CC=C(C=C1)C)=O | C16H12FNO
reactant | potassium carbonate | 11.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 250 cc | CC(CC)=O | C4H8O
solvent | butanone | 50 cc | CC(CC)=O | C4H8O
product | [5-fluoro-2-(4-methylphenyl-4-quinolyl]oxyacetyl}morpholine | 2.4 g | FC1=C2C(=CC(=NC2=CC=C1)C1=CC=C(C=C1)C)OCC(=O)N1CCOCC1 | C22H21FN2O3
